US07557067B2
(1) Synthesis of 3,5-dichloro-1-methylpyrazole-4-carbohydroxamic acid
In a solution of hydroxyamine hydrochloride (106.9 g, 1.538 mol) in water (200 ml), a solution of 85% potassium hydroxide (101.5 g, 1.538 mol) in water (200 ml) was added at 5 to 15° C., and stirred at room temperature for 5 minutes. Then, a solution of 3,5-dichloro-1-methylpyrazole-4-carboxylic acid chloride (100.0 g, 0.5128 mol) in tetrahydrofuran (170 ml) was added dropwise at 3 to 8° C. over 2 hours. After stirring at 5° C. for 0.5 hour, the mixture was adjusted to pH 3-4 by adding 35% hydrochloric acid. Precipitated solid was filtered off, washed with water, and dried to obtain the aimed product (94.9 g). Melting point 200-202° C. (decomposition). Proton nuclear magnetic resonance chemical shift values δ (ppm) (in dimethylsulfoxide-d6) 3.79 (s, 3H), 9.24 (brs, 1H), 10.83 (brs, 1H).

reactant | hydroxyamine hydrochloride | 1.538 mol, 106.9 g | Cl.ON
reactant | potassium hydroxide | 1.538 mol, 101.5 g | [OH-].[K+]
reactant | 3,5-dichloro-1-methylpyrazole-4-carboxylic acid chloride | 0.5128 mol, 100.0 g | ClC1=NN(C(=C1C(=O)Cl)Cl)C | C5H3Cl3N2O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
product | 3,5-dichloro-1-methylpyrazole-4-carbohydroxamic acid | 94.9 g | ClC1=NN(C(=C1C(=O)NO)Cl)C | C5H5Cl2N3O2
